US04429152
35.5 g (95 mmol) of 3-hydroxy-2,4,6-tribromobenzamide is suspended in 150 ml of methanol and dissolved by adding 2.18 g (95 mmol) of sodium. The mixture is combined with 17.5 g (104 mmol) of ethyl bromoacetate and maintained under reflux for three hours. After several hours of agitation, the crystallized product is vacuum-filtered, washed with a small amount of ice-cold methanol, and dried at 60° C., thus obtaining 37.2 g (88% of theory) of 3-carbamoyl-2,4,6-tribromophenoxyacetic acid methyl ester, mp 231°-233° C.

reactant | 3-hydroxy-2,4,6-tribromobenzamide | 95 mmol, 35.5 g | OC=1C(=C(C(=O)N)C(=CC1Br)Br)Br | C7H4Br3NO2
reactant | sodium | 95 mmol, 2.18 g | [Na] | Na
reactant | ethyl bromoacetate | 104 mmol, 17.5 g | BrCC(=O)OCC | C4H7BrO2
solvent | methanol | 150 ml | CO | CH4O
product | 3-carbamoyl-2,4,6-tribromophenoxyacetic acid methyl ester | 37.2 g, 88% | COC(COC1=C(C(=C(C=C1Br)Br)C(N)=O)Br)=O | C10H8Br3NO4
